US05643494
A stainless steel pressure autoclave is charged with 100 parts of potassium formate and the melt is freed from residual moisture at 230° C., with stirring and in vacuo. It is then heated to 280° C. and 50 bar of carbon monoxide are injected. Using a metering pump, a mixture of 20 parts of potassium naphtholate with 25 parts of potassium carbonate are metered in as a suspension in kerosene over a period of 5 hours. Some of this kerosene is removed from the reaction vessel by distillation under reduced pressure, and is condensed and expelled. After it has been cooled, the reaction mixture is taken up in water, and the upper, kerosene phase is separated off after settling. The reaction mixture is acidified with sulfuric acid to a pH of 7 and then the unreacted β-naphtholate precipitates and is separated off. On further acidification to pH 4, first the 2-hydroxynaphthalene-6-carboxylic acid precipitates, and finally at pH 1 the other acids do likewise. The reaction mixture is worked up to give 2-hydroxynaphthalene-6-carboxylic acid in a yield of 72% based on the potassium naphtholate employed. Secondary products are 8% of unreacted γ-naphthol, 4% of 2-hydroxynaphthalene-3-carboxylic acid and 12% of 2-hydroxynaphthalene-3,6-dicarboxylic acid.

reactant | potassium formate | C(=O)[O-].[K+]
reactant | carbon monoxide | [C]=O | CO
reactant | potassium naphtholate | C1(=CC=CC2=CC=CC=C12)[O-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-hydroxynaphthalene-6-carboxylic acid | yield of 72% | OC1=CC2=CC=C(C=C2C=C1)C(=O)O | C11H8O3
